### PR TITLE
feat: `decide!` tactic for using kernel reduction

### PR DESCRIPTION
**Pull request by kmill**
The `decide!` tactic is like `decide`, but when it tries reducing the `Decidable` instance it uses kernel reduction rather than the elaborator's reduction.

The kernel ignores transparency, so it can unfold all definitions (for better or for worse). Furthermore, by using kernel reduction we can cache the result as an auxiliary lemma — this is more efficient than `decide`, which needs to reduce the instance twice: once in the elaborator to check whether the tactic succeeds, and once again in the kernel during final typechecking.

While RFC #5629 proposes a `decide!` that skips checking altogether during elaboration, with this PR's `decide!` we can use `decide!` as more-or-less a drop-in replacement for `decide`, since the tactic will fail if kernel reduction fails.

This PR also includes two small fixes:
- `blameDecideReductionFailure` now uses `withIncRecDepth`.
- `Lean.Meta.zetaReduce` now instantiates metavariables while zeta reducing.

Some profiling:
```lean
set_option maxRecDepth 2000
set_option trace.profiler true
set_option trace.profiler.threshold 0

theorem thm1 : 0 < 1 := by decide!
theorem thm1' : 0 < 1 := by decide
theorem thm2 : ∀ x < 400, x * x ≤ 160000 := by decide!
theorem thm2' : ∀ x < 400, x * x ≤ 160000 := by decide
/-
[Elab.command] [0.003655] theorem thm1 : 0 < 1 := by decide!
[Elab.command] [0.003164] theorem thm1' : 0 < 1 := by decide
[Elab.command] [0.133223] theorem thm2 : ∀ x < 400, x * x ≤ 160000 := by decide!
[Elab.command] [0.252310] theorem thm2' : ∀ x < 400, x * x ≤ 160000 := by decide
-/
```

### CODE REVIEW

File: src/Lean/Elab/Tactic/ElabTerm.lean [hunk 1]
```diff
@@ -393,74 +394,100 @@ private partial def blameDecideReductionFailure (inst : Expr) : MetaM Expr := do
...
-      -- efficient term. The kernel handles the unification `e =?= true` specially.
-      let rflPrf ← mkEqRefl (toExpr true)
-      return mkApp3 (Lean.mkConst ``of_decide_eq_true) expectedType s rflPrf
+    let pf ← mkDecideProof expectedType
+    -- Get instance from `pf`
+    let s := pf.appFn!.appArg!
+    if kernelOnly then
+      -- Reduce the decidable instance to (hopefully!) `isTrue` by passing `pf` to the kernel.
+      -- The `mkAuxLemma` function caches the result in two ways:
+      -- 1. First, the function makes use of a `type`-indexed cache per module.
```
Comment (nomeata) [inline src/Lean/Elab/Tactic/ElabTerm.lean:406]: I wonder if this will still work with parallelism. Also is it not a bit strange to have a per module cache, and penalize users for splitting modules?

How is the matcher caching auxiliary definitions?

File: src/Lean/Parser/Tactic.lean [hunk 2]
```diff
@@ -125,6 +125,17 @@ example : 1 + 1 = 2 := by rfl
 @[builtin_tactic_parser] def decide := leading_parser
   nonReservedSymbol "decide"
 
+/--
+`decide!` is a variant of the `decide` tactic that uses kernel reduction to prove the goal.
+It has the following properties:
+- Since it uses kernel reduction instead of elaboratior reduction, it ignores transparancy and can unfold everything.
+- While `decide` needs to reduce the `Decidable` instance twice (once during elaboration to verify whether the tactic succeeds,
+  and once during kernel type checking), the `decide!` tactic reduces it exactly once.
+- When `decide!` is successful, the result is cached for the current module.
```
Comment (nomeata) [inline src/Lean/Parser/Tactic.lean:134]: Maybe remove that from the docstring. We don’t want people to relying on that behavior if we don't know if and how that will work post-parallelism.
```suggestion
```

**Review by nomeata — APPROVED** [review]

File: src/Lean/Parser/Tactic.lean (hunk 2 above)
Comment (kmill) [reply src/Lean/Parser/Tactic.lean:134]: Sure. How does leaving the caching test sound, so we know when this finally has broken?

Comment (nomeata) [reply src/Lean/Parser/Tactic.lean]: Absolutely!

File: src/Lean/Parser/Tactic.lean [hunk 3]
```diff
@@ -125,6 +125,16 @@ example : 1 + 1 = 2 := by rfl
 @[builtin_tactic_parser] def decide := leading_parser
   nonReservedSymbol "decide"
 
+/--
+`decide!` is a variant of the `decide` tactic that uses kernel reduction to prove the goal.
+It has the following properties:
+- Since it uses kernel reduction instead of elaboratior reduction, it ignores transparancy and can unfold everything.
```
Comment (kmill) [inline src/Lean/Parser/Tactic.lean:131]:
```suggestion
- Since it uses kernel reduction instead of elaborator reduction, it ignores transparency and can unfold everything.
```
